US08431596B2
[5-(3-Chloromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (XX-341)
(3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl)-methanol (0.35 g, 0.815 mmol) was dissolved in dichloromethane (20 mL). Triethylamine (508 μL, 3.670 mmol) was added and the mixture cooled to 0° C., then methanesulfonyl chloride (252 μL, 3.260 mmol) was added dropwise and the reaction was allowed to warm to room temperature and stirred overnight. A small sample of the desired product was purified by preparatory HPLC. RT: 2.56 min, MI: 448 and 450.18, Method: 2.

reactant | (3-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl)-methanol | 0.815 mmol, 0.35 g | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=C(C=CC2)CO)=N1 | C25H27N5O2
reactant | Triethylamine | 3.670 mmol, 508 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.260 mmol, 252 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | [5-(3-Chloromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | ClCC=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C25H26ClN5O
